* C:\Users\user\Desktop\python_spice\pv_single_diode\pv.asc 
R1 N001 0 2184.0 
R2 N001 N002 2.558 
D1 N001 0 DPV 
V1 N002 0 0 
I1 0 N001 0.02646 
.model DPV D(Is=1.2984e-10 N=4.1216 Tnom=20) 
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio 
.dc V1 0.0 2.0 0.010000000000000002
.backanno 
.end 
 