* C:\Users\user\Desktop\python_spice\pv_single_diode\pv.asc 
R1 N001 0 3.9102864125122188 
R2 N001 N002 1958.944302052786 
D1 N001 0 DPV 
V1 N002 0 0 
I1 0 N001 0.039101664711632456 
.model DPV D(Is=0.7507337624633432 N=0.24633518768328447 Tnom=33) 
.lib C:\Users\user\Documents\LTspiceXVII\lib\cmp\standard.dio 
.dc V1 0.04993489583333333 6.510416666666664e-05 0.0
.backanno 
.end 
 